US09193692B2
C. 1-(Tetrahydro-pyran-2-yl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-Indazole
A degassed mixture of 4-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole (2.13 g, 7.45 mmol), bis(pinacolato)diboron (3.73 g, 14.9 mmol), potassium phosphate (2.70 g, 12.67 mmol), palladium acetate (0.174 g 0.75 mmol) and triphenylphosphine (0.59 g, 2.24 mmol) in 1,2-dimethoxy-ethane (50 mL) was heated at 100° C. under nitrogen overnight. After cooling to room temperature, the reaction mixture was filtered, concentrated under reduced pressure and purified on silica gel column (10-30% ethyl acetate in petroleum ether) to give the product (1.83 g, 74% yield) as a solid. MS (ESI): m/z 329.2 [M+1]+.

reactant | 4-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole | 7.45 mmol, 2.13 g | BrC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C12H13BrN2O
reactant | bis(pinacolato)diboron | 14.9 mmol, 3.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium phosphate | 12.67 mmol, 2.70 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triphenylphosphine | 2.24 mmol, 0.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxy-ethane | 50 mL | COCCOC | C4H10O2
catalyst | palladium acetate | 0.75 mmol, 0.174 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(Tetrahydro-pyran-2-yl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-Indazole | 1.83 g, 74% yield | O1C(CCCC1)N1N=CC2=C(C=CC=C12)B1OC(C(O1)(C)C)(C)C | C18H25BN2O3
